US08871187B2
2-1 3-(4-Fluorophenyl)-3-hydroxy-1-(tert-butoxycarbonyl)azetidine
6 ml (11.7 mmol) of a 2M solution of 4-fluorophenylmagnesium bromide in diethyl ether are added dropwise to a solution, immersed in a bath at −50° C., containing 500 mg (2.92 mmol) of 3-oxo-1-(tert-butoxycarbonyl)azetidine in 10 ml of THF. The medium is stirred for 1 hour at −50° C. and hydrolysed by addition of a saturated solution of ammonium chloride. After a return to ambient temperature, a 1N solution of hydrochloric acid is added, followed by extraction with ethyl acetate. The organic phase is dried and evaporated to dryness. The crude product obtained is purified by silica gel chromatography (eluent 7/3 heptane/ethyl acetate). 333 mg in the form of a white powder are obtained with a yield of 43%.

reactant | 4-fluorophenylmagnesium bromide | FC1=CC=C(C=C1)[Mg]Br
reactant | 3-oxo-1-(tert-butoxycarbonyl)azetidine | 2.92 mmol, 500 mg | O=C1CN(C1)C(=O)OC(C)(C)C | C8H13NO3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(4-Fluorophenyl)-3-hydroxy-1-(tert-butoxycarbonyl)azetidine | yield of 43% | FC1=CC=C(C=C1)C1(CN(C1)C(=O)OC(C)(C)C)O | C14H18FNO3
